US04282242
5-(4-Chlorophenylthio)pyrrole-3-carboxylic Acid
Methyl 5-(4-chlorophenylthio)pyrrole-3-carboxylate (1.4 g.) was combined with 20 ml. of methanol and 20 ml. of 1 N sodium hydroxide and heated on a steam bath for 2 hours. The reaction was cooled, acidified with conc. hydrochloric acid. and the crude product which precipitated, collected by filtration. Two recrystallizations from acetone/hexane afforded purified 5-(4-chlorophenylthio)pyrrole-3-carboxylic acid (740 mg., m.p. 171°-173° C.).

reactant | Methyl 5-(4-chlorophenylthio)pyrrole-3-carboxylate | 1.4 g | ClC1=CC=C(C=C1)SC1=CC(=CN1)C(=O)OC | C12H10ClNO2S
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | 5-(4-Chlorophenylthio)pyrrole-3-carboxylic Acid | ClC1=CC=C(C=C1)SC1=CC(=CN1)C(=O)O | C11H8ClNO2S
